US07173031B2
D) 4-(2-Fluoro-4-(2-fluoro-5-methylbenzamido)phenoxy)-5-methyl-N-(2-morpholinoethyl)pyrrolo[2,1-f][1,2,4]triazine-6-carboxamide, hydrochloride salt
To a solution of 4-(4-amino-2-fluorophenoxy)-5-methyl-N-(2-morpholinoethyl)pyrrolo[2,1-f][1,2,4]triazine-6-carboxamide (25 mg, 0.06 mmol) in 1 mL of THF were added Et3N (0.2 mL) and a solution of 2-fluoro-5-methylbenzoyl chloride (20 mg, 0.11 mmol) in 1 mL of THF at room temperature. The mixture was allowed to stir for 1 h and HPLC analysis indicated the consumption of the starting material. The reaction was quenched with MeOH. The solution was then concentrated in vacuo and the residue was purified by preparative HPLC to give the title compound (8.0 mg, 23%) as a HCl salt. 1H NMR (CD3OD) δ 8.48 (d, 1H), 7.83 (m, 3H), 7.28 (m, 3H), 7.00 (m, 1H), 2.90–4.00 (m, 12H), 2.76 (s, 3H), 2.33 (s, 3H); MS(ESI+) m/z 551.2 (M+H)+.

reactant | 4-(4-amino-2-fluorophenoxy)-5-methyl-N-(2-morpholinoethyl)pyrrolo[2,1-f][1,2,4]triazine-6-carboxamide | 0.06 mmol, 25 mg | NC1=CC(=C(OC2=NC=NN3C2=C(C(=C3)C(=O)NCCN3CCOCC3)C)C=C1)F | C20H23FN6O3
reactant | Et3N | 0.2 mL | CCN(CC)CC | C6H15N
reactant | 2-fluoro-5-methylbenzoyl chloride | 0.11 mmol, 20 mg | FC1=C(C(=O)Cl)C=C(C=C1)C | C8H6ClFO
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 4-(2-Fluoro-4-(2-fluoro-5-methylbenzamido)phenoxy)-5-methyl-N-(2-morpholinoethyl)pyrrolo[2,1-f][1,2,4]triazine-6-carboxamide, hydrochloride salt | 8.0 mg, 23% | Cl.FC1=C(OC2=NC=NN3C2=C(C(=C3)C(=O)NCCN3CCOCC3)C)C=CC(=C1)NC(C1=C(C=CC(=C1)C)F)=O | InChI=1S/C28H28F2N6O4.ClH/c1-17-3-5-22(29)20(13-17)27(38)34-19-4-6-24(23(30)14-19)40-28-25-18(2)21(15-36(25)33-16-32-28)26(37)31-7-8-35-9-11-39-12-10-35;/h3-6,13-16H,7-12H2,1-2H3,(H,31,37)(H,34,38);1H
